US07157488B2
5-Benzenesulfonyl-1H-indole
Cool a solution of 5-bromo-1-triisopropylsilanyl-1H-indole (9 g, 25.5 mmol) in 550 mL anhydrous THF to −75° C. under argon and treat with 1.7 M t-butyl lithium (33 mL, 56.2 mmol) while keeping the temperature below −60° C. After the addition, recool the reaction mixture to about −73° C. before adding a solution of phenylsulfonyl fluoride (4.6 g, 28.7 mmol) in 30 mL THF. Stir the reaction at −78° C. for 1 hour then quench with saturated NaHCO3 followed by brine. Separate the layers and extract the aqueous layer with EtOAc. Treat the combined organic layers with 1 M tetrabutylammonium fluoride (35 mL) in THF for 1 hour at ambient temperature, then concentrate to dryness. Combine the residue with EtOAc, wash twice with 1 N HCl, dry over MgSO4, and concentrate to an oil. Chromatograph the oil on silica get eluting stepwise with 50% CHCl3 in hexanes followed by 50% CHC13 in MeOH give an oily solid. Triturate the oily solid with CHCl3 to give the title compound as a solid: Analysis for C14H11NO2S H2O: calcd: C, 64.89; H, 4.36; N, 5.41; found: C, 64.76; H, 4.45; N, 5.33; ISMS 257 (M+).

reactant | 5-bromo-1-triisopropylsilanyl-1H-indole | 25.5 mmol, 9 g | BrC=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | t-butyl lithium | 56.2 mmol, 1.7 M, 33 mL | C(C)(C)(C)[Li]
reactant | phenylsulfonyl fluoride | 28.7 mmol, 4.6 g | C1(=CC=CC=C1)S(=O)(=O)F | C6H5FO2S
solvent | THF | 550 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Benzenesulfonyl-1H-indole | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CNC2=CC1 | C14H11NO2S
